US08071592B2
(d) 6-Fluoro-2,3-dihydro[1,4]dioxino[2,3-h]quinoline
Concentrated sulfuric acid (25 ml), boric acid (2.22 g, 35.6 mmol), iron (II) sulfate heptahydrate (831 mg, 2.99 mmol) and 3-nitrobenzene sulfonic acid sodium salt (7.25 g, 32.2 mmol) were stirred in a flask cooled with an ice-bath; glycerol (8.4 ml, 23 mmol) and 7-fluoro-2,3-dihydro-1,4-benzodioxin-5-amine (3.9 g, 23 mmol) were added followed by water (25 ml). The reaction was heated at 140° C. for 3 h, then cooled to rt. The mixture was poured onto ice-water (100 ml) and filtered. The filtrate was basified to pH 8 with 6N sodium hydroxide (130 ml) and then stirred with ethyl acetate (300 ml) for 0.5 h. The mixture was then filtered through celite and the phases separated. The aqueous layer was extracted with ethyl acetate (3×300 ml), the combined organics washed with brine, dried on magnesium sulphate, filtered and reduced to afford a crude which dissolved in ethyl acetate and purified by filtration over a silica pad to afford the compound as a pale green solid (2.78 g, 60%).

reactant | sulfuric acid | 25 ml | S(O)(O)(=O)=O | H2O4S
reactant | boric acid | 35.6 mmol, 2.22 g | B(O)(O)O | BH3O3
reactant | 3-nitrobenzene sulfonic acid sodium salt | 32.2 mmol, 7.25 g | [Na+].[N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)[O-]
reactant | glycerol | 23 mmol, 8.4 ml | OCC(O)CO | C3H8O3
reactant | 7-fluoro-2,3-dihydro-1,4-benzodioxin-5-amine | 23 mmol, 3.9 g | FC=1C=C(C2=C(OCCO2)C1)N | C8H8FNO2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | iron (II) sulfate heptahydrate | 2.99 mmol, 831 mg | O.O.O.O.O.O.O.S(=O)(=O)([O-])[O-].[Fe+2]
solvent | water | 25 ml | O | H2O
product | 6-Fluoro-2,3-dihydro[1,4]dioxino[2,3-h]quinoline | 2.78 g, 60% | FC=1C=2C=CC=NC2C2=C(C1)OCCO2 | C11H8FNO2
